US07863283B2
(RS)-S-{3-[({4-[(3-Cyanophenyl)amino]-6-methoxyquinazolin-7-yl}oxy)methyl]-phenyl}-N-(ethoxycarbonyl)-S-methylsulphoximide
According to GWP 5, the reaction of N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide (100 mg, 0.22 mmol) with 3-aminobenzonitrile (31 mg, 0.26 mmol) and chromatography (silica gel, dichloromethane/methanol: 4/1) gives the desired product in 71% yield (82 mg).

reactant | N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide | 0.22 mmol, 100 mg | C(#N)C1=C(C=C(C(=C1)OC)OCC1=CC(=CC=C1)S(=O)(=NC(=O)OCC)C)N=CN(C)C | C22H26N4O5S
reactant | 3-aminobenzonitrile | 0.26 mmol, 31 mg | NC=1C=C(C#N)C=CC1 | C7H6N2
solvent | dichloromethane methanol | ClCCl.CO
product | (RS)-S-{3-[({4-[(3-Cyanophenyl)amino]-6-methoxyquinazolin-7-yl}oxy)methyl]-phenyl}-N-(ethoxycarbonyl)-S-methylsulphoximide | 71% yield | C(#N)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1C=C(C=CC1)S(=O)(=NC(=O)OCC)C | C27H25N5O5S
